US07709645B2
24 mg (0.05 mmol) of 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid, 8.4 mg (0.05 mmol) of 1-(2-diethylaminoethyl)piperazine, and 17 mg (0.05 mmol) of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) were combined in 1.0 mL dimethyl formamide and stirred at room temperature for 48 hours. To the crude reaction was added 200 μL of a 50% w/v potassium hydroxide (aqueous) solution and the mixture was stirred for 24 hours at room temperature. The reaction was neutralized by adding a few drops of acetic acid, filtered through a 0.45 μm syringe filter, and then purified by mass-triggered reverse phase HPLC in a gradient of acetonitrile and water (containing 0.1% formic acid). The clean fractions were lyophilized to afford 5.0 mg (0.01 mmol, 21% yield) of {2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-[4-(2-diethylamino-ethyl)-piperazin-1-yl]-methanone as a orange glass. 1H NMR (500 MHz, MeOD) δ 8.40 (d, 1H), 8.17 (d, 1H), 7.65 (s, 1H), 7.58 (dd, 1H), 7.42 (dd, 1H), 7.31 (t, 1H), 7.22 (d, 1H), 7.14 (d, 1H), 7.07 (t, 1H), 3.86 (s, 3H), 3.70 (s, br., 4H), 2.58 (m, 12H), 1.09 (t, 6H). MS: m/z 545.3 (M+H+).

reactant | 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid | 0.05 mmol, 24 mg | NC1=C(C(=O)O)C=C(C=C1F)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C28H22FN3O5S
reactant | 1-(2-diethylaminoethyl)piperazine | 0.05 mmol, 8.4 mg | C(C)N(CCN1CCNCC1)CC | C10H23N3
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.05 mmol, 17 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | potassium hydroxide | [OH-].[K+]
solvent | dimethyl formamide | 1.0 mL | CN(C=O)C | C3H7NO
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | {2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-[4-(2-diethylamino-ethyl)-piperazin-1-yl]-methanone | 0.01 mmol, 5.0 mg, 21% yield | NC1=C(C=C(C=C1F)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)C(=O)N2CCN(CC2)CCN(CC)CC | C31H37FN6O2
